US06503907B2
A mixture of 70 mg (0.1 mmol) Pd(PPh3)2Cl2 and 27 mg (0.142 mmol) CuI in triethylamine was refluxed under argon during 20 min, cooled to 0° C., treated with 7 g (0.019 mmol) (4-Bromo-5-fluoro-2-iodo-phenyl)-carbamic acid methyl ester, stirred 10 min. at room temperature, treated with 2.95 (0.021 mmol) ethinyltrimethylsilane, and stirred 1 h at room temperature. 2M aqueous HCl and ice were added and the mixture extracted three times with EtOAc. The combined organic layers were washed subsequently with H2O and saturated aqueous NaCl, dried with MgSO4 and the solvent was evaporated. The crude product obtained was dissolved in 50 ml tert.-butanol, treated with 3.2 g (0.023 mol) KOH and the resulting mixture refluxed during 1.5 h. The solvent was evaporated and the residue distributed between icy water and Et2O. The organic layer was washed with water and dried with MgSO4. Evaporation of the solvent and column chromatography on silica gel with hexane/EtOAc 9:1 gave of 3.2 g (80%) 5-Bromo-6-fluoro-1H-indole, MS: 213 (M, 1Br).

reactant | (4-Bromo-5-fluoro-2-iodo-phenyl)-carbamic acid methyl ester | 0.019 mmol, 7 g | COC(NC1=C(C=C(C(=C1)F)Br)I)=O | C8H6BrFINO2
reactant | ethinyltrimethylsilane | C(#C)[Si](C)(C)C | C5H10Si
reactant | HCl | 2M | Cl | ClH
reactant | KOH | 0.023 mol, 3.2 g | [OH-].[K+]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tert.-butanol | 50 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.142 mmol, 27 mg | [Cu]I
product | 5-Bromo-6-fluoro-1H-indole | 3.2 g, 80% | BrC=1C=C2C=CNC2=CC1F | C8H5BrFN
